US07977331B1
To a solution of methyl 2-(2-{[N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino]methyl}phenyl)-3-cyclohexyl-1H-indole-6-carboxylate (424 mg, 0.830 mmol) and triethylamine (0.14 ml, 1.0 mmol) in chloroform (5.0 ml) was added dropwise methanesulfonyl chloride (0.07 ml, 0.90 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to give methyl 2-(2-{[N-tert-butoxycarbonyl-N-(2-methanesulfonyloxyethyl)amino]methyl}phenyl)-3-cyclohexyl-1H-indole-6-carboxylate as a crude product. The obtained crude product was used for Step 5 without purification.

reactant | methyl 2-(2-{[N-tert-butoxycarbonyl-N-(2-hydroxyethyl)amino]methyl}phenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 0.830 mmol, 424 mg | C(C)(C)(C)OC(=O)N(CCO)CC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C30H38N2O5
reactant | triethylamine | 1.0 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.90 mmol, 0.07 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | chloroform | 5.0 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(2-{[N-tert-butoxycarbonyl-N-(2-methanesulfonyloxyethyl)amino]methyl}phenyl)-3-cyclohexyl-1H-indole-6-carboxylate | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C)CC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C31H40N2O7S
